* Z:\mnt\design.r\spice\examples\3888.asc
V1 IN 0 12
C1 N002 0 2.2µ
C3 N004 0 4.7µ
R1 N005 N002 100K
R2 N002 N012 100K
XU5 N003 N015 N003 0 MP_01 MP_02 N020 N003 N003 IN N009 0 N007 N005 N005 N018 N014 LTC7050
L1 N009 OUT0 0.2µ
C2 OUT0 0 1320µ
R3 OUT0 0 100m
R4 N018 N001 500
R5 N007 N001 500
R6 N011 N002 100K
L2 N014 OUT0 0.2µ
C4 N022 0 100p
C5 N026 0 3300p
C6 N023 0 100p
C7 N027 0 3300p
XU2 N003 N030 N003 0 MP_03 MP_04 N036 N003 N003 IN N028 0 N024 N005 N005 N034 N032 LTC7050
L3 N028 OUT0 0.2µ
L4 N032 OUT0 0.2µ
R8 N024 N001 500
R9 N001 N034 500
XU1 N015 N016 N007 N008 N020 0 OUT0 MP_05 N022 N026 N011 MP_06 MP_07 0 MP_08 N013 MP_09 MP_10 MP_11 N005 N006 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 N002 N004 IN N001 MP_20 MP_21 N012 N027 N023 MP_22 OUT1 0 N030 N018 N024 N036 N037 N034 N035 N031 N021 N025 N019 0 LTC3888 LTC3888
XU3 N003 N016 N003 0 MP_23 MP_24 N021 N003 N003 IN N010 0 N008 N006 N006 N019 N017 LTC7050
L5 N010 OUT1 0.2µ
C8 OUT1 0 1320µ
R10 OUT1 0 100m
L6 N017 OUT1 0.2µ
XU4 N003 N031 N003 0 MP_25 MP_26 N037 N003 N003 IN N029 0 N025 N006 N006 N035 N033 LTC7050
L7 N029 OUT1 0.2µ
L8 N033 OUT1 0.2µ
R11 N008 N001 500
R12 N019 N001 500
R13 N025 N001 500
R14 N001 N035 500
R15 N002 N013 10K
V2 N003 0 5
R7 N002 N006 100K
.tran 800u startup
* *************** READ ME **********************************************************************\n \nThis model does not cover the PMBUS and SPI functions of this IC.\nTherefore, many things controlled by the PMBUS are configured by CTRL + right click on the IC.\nShare_CLK is NOT modelled. The SYNC pin can only be used as an input and\n   it?s grounded when it?s not used. CLK_OUT pin is provided to allow clock out function.\nResistor setting pins like Vout_CFG are not modeled.\nVout and PWM_config must be set by CTRL by right-clicking on the IC.\n \nFrequency_Switch=500 sets the frequency in kHz between 250 and 1000.\nPWM_config=3 controls the phasing and master/slave configuration of the 8 channels.\nA decimal number is used for the 3-bit binary number. The description starts on page 72 of the datasheet.\n \n# (PWM0: PWM1)\n7 (7 phase: 1 Phase)\n6 (6 phase: 2 Phase)\n5 (6 phase: 1 phase)\n4 (5 phase: 3 phase)\n3 (4 phase: 4 phase)\n2 (4 phase: 3 phase)\n1 (4 phase: 2 phase)\n0 (3 phase: 3 phase)\n \nVout0=2.5 and Vout1=3 program the output voltage in a range from 0.3 to 3.45V\nGM0=3m and GM1=3m program the gain the Error Amplifier in range from 1 to 5.73mS\nIout_Cal_Gain=5m should match the voltage gain of the chosen current sense (V/A)\nRith0=5k and Rith1=5k program the compensation resistor in series\n   with Cithr on the output of the error amplifier in a range from 1k to 62k\nTon_Min=45n programs the minimum on time of the PWM outputs\n \nOC_Limit0=20  OC_Limit1=20 program approximately the\n   DC the current limit of the each phase used for that converter. \n \nTon_Rise0=300u and Ton_Rise1=300u set the soft start time minimum is 250us\nToff_Fall0=300u and Toff_Fall1=300u are the soft turn off ramp.\nTon_Delay0=0 and Ton_Delay1=0 set the delay from when the RUN pin goes high until the soft-start begins\nToff_Delay0=0  and  Toff_Delay1=0 set the delay from when the RUN pin goes low until the turn-off ramp begins\n \nVOUT_UV_Fault_Limit0=2.2 and VOUT_UV_Fault_Limit1=2.8 program the undervoltage fault limit for the Pgood output\nVOUT_OV_Fault_Limit0=2.6 and VOUT_OV_Fault_Limit1=3.1 program the overvoltage fault limit for the Pgood output\n \nSlave0 and Slave1 set slave channel. 0 disable,1 enable. If enabled the error amplifier is open circuit
.lib LTC3888.sub
.lib LTC7050.sub
.backanno
.end
